US06627651B1
Into a solution of methyl 7-[[4-(2-ethoxyethoxy)benzyl]oxy]-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylate (0.59 g) in THF-methanol (10-5 ml) was added at room temperature a 1 M aqueous solution of potassium carbonate (2.6 ml), and the resulting mixture was stirred at 65° C. for 24 hours. Into this reaction mixture was added further a 1 M aqueous solution of potassium carbonate (1.3 ml), and the resulting mixture was stirred at 65° C. for 16 hours. After cooling to room temperature, the reaction mixture was extracted with ethyl acetate. To the aqueous layer was added 1 N hydrochloric acid (10 ml), and the resulting mixture was extracted with ethyl acetate. The organic layer was washed with an aqueous saturated solution of sodium chloride and was dried with magnesium sulfate. After concentration under reduced pressure, the precipitated crystals were collected by filtration. The crystals were washed with diisopropyl ether to obtain 7-[[4-(2-ethoxyethoxy)benzyl]oxy]-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylic acid (215 mg) as light yellow crystals.

reactant | methyl 7-[[4-(2-ethoxyethoxy)benzyl]oxy]-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylate | 0.59 g | C(C)OCCOC1=CC=C(COC=2C=CC3=C(C=C(CCS3(=O)=O)C(=O)OC)C2)C=C1 | C23H26O7S
reactant | potassium carbonate | 2.6 ml | C([O-])([O-])=O.[K+].[K+]
reactant | potassium carbonate | 1.3 ml | C([O-])([O-])=O.[K+].[K+]
solvent | THF methanol | 10-5 ml | C1CCOC1.CO
product | 7-[[4-(2-ethoxyethoxy)benzyl]oxy]-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylic acid | 215 mg | C(C)OCCOC1=CC=C(COC=2C=CC3=C(C=C(CCS3(=O)=O)C(=O)O)C2)C=C1 | C22H24O7S
